US06423713B1
Step 1: Preparation of 1-(4-chlorophenyl)-2-(1,3-dithietan-2-ylidene)-2-(4-pyridinyl)ethanone
To a solution of 2-(4-pyridyl)-1-(4-chlorophenyl)ethanone (70.0 g, 0.3 mol) prepared in a similar manner as the compound of Step 1 of Example A-19, dibromomethane (200 mL) and carbon disulfide (25.9 g, 0.34 mol) in acetone (800 mL) was added potassium carbonate (83.0 g, 0.6 mol). The reaction mixture was stirred at room temperature for 24 hours. An additional two equivalents of potassium carbonate and one equivalent of carbon disulfide was added and the stirring was continued for another 24 hours. Solvent was removed and the residue was partitioned between dichloromethane and water. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and the crude was stirred with 1000 mL of a mixture of ethyl acetate and ether (1:9) to give 78.4 g of pure product, 1-(4-chlorophenyl)-2-(1,3-dithietan-2-ylidene)-2-(4-pyridinyl)ethanone, as a yellow solid (82%), mp: 177-179° C. Anal. Calc'd. for C15H10ClNOS2: C, 56.33; H, 3.15; N, 4.38. Found: C, 55.80; H, 2.84; N, 4.59.

reactant | 2-(4-pyridyl)-1-(4-chlorophenyl)ethanone | 0.3 mol, 70.0 g | N1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)Cl | C13H10ClNO
reactant | dibromomethane | 200 mL | BrCBr | CH2Br2
reactant | carbon disulfide | 0.34 mol, 25.9 g | C(=S)=S | CS2
reactant | potassium carbonate | 0.6 mol, 83.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | two equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | carbon disulfide | one equivalent | C(=S)=S | CS2
solvent | acetone | 800 mL | CC(=O)C | C3H6O
product | 1-(4-chlorophenyl)-2-(1,3-dithietan-2-ylidene)-2-(4-pyridinyl)ethanone | 78.4 g | ClC1=CC=C(C=C1)C(C(C1=CC=NC=C1)=C1SCS1)=O | C15H10ClNOS2
